US07030139B2
20B: 3-amino-4-[(Cyclopropylmethyl)amino]benzonitrile.
Following the general procedure 2C, crude 4-[(cyclopropylmethyl)-amino]-3-nitrobenzonitrile (920 mg, 4.24 mmol) was hydrogenated for 2 h (35 psi) in 40 mL of EtOAc to yield 750 mg crude product (95%) and was used for the next step without further purification. MS (ESI) (M+H)+=188.

reactant | 4-[(cyclopropylmethyl)-amino]-3-nitrobenzonitrile | 4.24 mmol, 920 mg | C1(CC1)CNC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C11H11N3O2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 3-amino-4-[(Cyclopropylmethyl)amino]benzonitrile | 750 mg, 95% | NC=1C=C(C#N)C=CC1NCC1CC1 | C11H13N3
